US09290465B2
A solution of 3-[4-(4-methoxy-benzyloxy)-phenyl]-isoxazole-4-carboxylic acid (1.0 g, 3.07 mmol) and triethylamine (0.5 mL, 3.4 mmol) in DMF (30 mL) was cooled to 0° C. Diphenylphosphorylazide (0.8 mL, 3.86 mmol) was added and the reaction mixture was warmed to 45-60° C. for 2 h. Water (15 mL) was then added and the reaction temperature increased to 90° C. for 28 h. The reaction mixture was cooled and 3-[4-(4-methoxy-benzyloxy)-phenyl]-isoxazol-4-ylamine was isolated by chromatography (5-40% ethyl acetate in hexane) as a white solid. m.p. 92-98° C. HRMS+1=297.123

reactant | 3-[4-(4-methoxy-benzyloxy)-phenyl]-isoxazole-4-carboxylic acid | 3.07 mmol, 1.0 g | COC1=CC=C(COC2=CC=C(C=C2)C2=NOC=C2C(=O)O)C=C1 | C18H15NO5
reactant | triethylamine | 3.4 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | Diphenylphosphorylazide | 3.86 mmol, 0.8 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Water | 15 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4-methoxy-benzyloxy)-phenyl]-isoxazol-4-ylamine | COC1=CC=C(COC2=CC=C(C=C2)C2=NOC=C2N)C=C1 | C17H16N2O3
